US07164052B2
Aromatization Test of 1-pentene/n-pentane with HZSM-5 (Comparative)
An aromatization test of a charge of C5 hydrocarbons (made up of 1-pentene and n-pentane in a weight ratio of 40:60) was conducted using an experimental apparatus consisting of a steel reactor (length=710 mm, internal diameter=12.5 mm, external diameter=35 mm) equipped with an internal thermometric sheath for control of the temperature. Heating took place with the aid of 4 ovens arranged in series along the reactor itself. The catalyst was introduced in the form of granules of appropriate sizes (20–40 mesh) and diluted with inert material. The feeding of the reagents (contained in a special refrigerated tank and kept under pressure in nitrogen) was performed using an HPLC pump. The products coming out of the reactor were condensed (at a temperature of 5° C.) and collected, partly in the liquid phase, and partly in the gas phase. Both the phases then underwent gas-chromatography analysis.

reactant | 1-pentene | C=CCCC | C5H10
solvent | n-pentane | CCCCC | C5H12
product | 1-pentene n-pentane | C=CCCC.CCCCC | InChI=1S/C5H12.C5H10/c2*1-3-5-4-2/h3-5H2,1-2H3;3H,1,4-5H2,2H3
